US04582847
4-Chloro-5-cyanomethyl-1-(4-hydroxy-3-methylbenzyl)-2-phenylimidazole (1 g) was dissolved in 10 ml of ethanol, and 10 ml of 2 N-sodium hydroxide was added. The mixture was boiled for 4 hours and evaporated to dryness, and the residue was shaken with 20 ml each of chloroform and water. The aqueous layer was washed with chloroform and 10 ml of 2N-hydrochloric acid was added. The resulting syrupy precipitate was recrystallized from aqueous ethanol to give 0.5 g of 4-chloro-1-(4-hydroxy-3-methylbenzyl)-2-phenylimidazole-5-acetic acid as colorless needles, m.p. 192°-195° C. (decompn.).

reactant | 4-Chloro-5-cyanomethyl-1-(4-hydroxy-3-methylbenzyl)-2-phenylimidazole | 1 g | ClC=1N=C(N(C1CC#N)CC1=CC(=C(C=C1)O)C)C1=CC=CC=C1 | C19H16ClN3O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 4-chloro-1-(4-hydroxy-3-methylbenzyl)-2-phenylimidazole-5-acetic acid | 0.5 g | ClC=1N=C(N(C1CC(=O)O)CC1=CC(=C(C=C1)O)C)C1=CC=CC=C1 | C19H17ClN2O3
